US05476851
Step B 1-(2-piperdin-1-ylethyl)-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline
A mixture of 1-(2-tosyloxyethyl)-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline (0.3 g), piperdine (0.11 g) and 20 ml of anhydrous DMF is stirred at room temperature overnight. The mixture is heated to gentle reflux for 21/2 hours. After cooling, it is poured into water and the precipitate is filtered, washed with water and air dried. This is then purified by chromatography using (3:7-1:9) methylene chloride in ethylacetate as eluent. 0.220 g of desired product to obtain 1-(2-piperdin-1-ylethyl)-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline (m.p. 117°-120° C. (dec)).

reactant | 1-(2-tosyloxyethyl)-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline | 0.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCN1N=CC=2C1=CC=1N=C(C=NC1C2)C2=CC(=C(C=C2)OC)F | C25H21FN4O4S
reactant | piperdine | 0.11 g | N1CCCCC1 | C5H11N
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2-piperdin-1-ylethyl)-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline | 0.220 g | N1(CCCCC1)CCN1N=CC=2C1=CC=1N=C(C=NC1C2)C2=CC(=C(C=C2)OC)F | C23H24FN5O
